US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.12 g) and ethyl bromoacetate (0.31 mL), ethyl 2-(4-{[N-(5-benzyloxy-1,2,3,4-tetrahydronaphthalen-1-ylcarbonyl)-N-(4-isopropylphenyl)amino]methyl}pyrazol-1-yl)acetate (0.66 g) was obtained. This compound was dissolved in ethanol (20 mL), and 1 mol/L-aqueous sodium hydroxide solution (1.22 mL) was added. The mixture was stirred at room temperature for 1 hr. To the reaction mixture was added 1 mol/L-hydrochloric acid (1.22 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. By the reaction and treatment of the obtained residue in the same manner as in Example 17 (0.58 g), 2-(4-{[N-(5-benzyloxy-1,2,3,4-tetrahydronaphthalen-1-ylcarbonyl)-N-(4-isopropylphenyl)amino]methyl}pyrazol-1-yl)acetic acid (0.23 g) was obtained. melting point: 180-182° C.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.12 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | ethyl bromoacetate | 0.31 mL | BrCC(=O)OCC | C4H7BrO2
product | ethyl 2-(4-{[N-(5-benzyloxy-1,2,3,4-tetrahydronaphthalen-1-ylcarbonyl)-N-(4-isopropylphenyl)amino]methyl}pyrazol-1-yl)acetate | 0.66 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC(=O)OCC | C35H39N3O4
